US08124610B2
2-(3-(4-chlorobenzyl)-5-(4-(N-thiazol-2-ylsulfamoyl)phenylamino)-1H-pyrazol-1-yl)acetamide
2-(3-(4-Chlorobenzyl)-5-(4-(N-thiazol-2-ylsulfamoyl)phenylamino)-1H-pyrazol-1-yl)acetic acid (30 mg, 0.00006 mol) was dissolved in N,N-Dimethylformamide (0.4 uL, 0.000005 mol) and methylene chloride (0.2 mL, 0.003 mol). Oxalyl chloride (7.6 uL, 0.000089 mol) was added and the reaction stirred 1 hour. The reaction was quenched by pouring it into 1.0 mL satd. ammonium hydroxide solution, neutralized with 1.0 N HCl, and extracted 2× with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate and evaporated to give the desired product, which was lyophilized from acetonitrile-water to provide a yellow powder.

reactant | 2-(3-(4-Chlorobenzyl)-5-(4-(N-thiazol-2-ylsulfamoyl)phenylamino)-1H-pyrazol-1-yl)acetic acid | 0.00006 mol, 30 mg | ClC1=CC=C(CC2=NN(C(=C2)NC2=CC=C(C=C2)S(NC=2SC=CN2)(=O)=O)CC(=O)O)C=C1 | C21H18ClN5O4S2
reactant | N,N-Dimethylformamide | 0.000005 mol, 0.4 uL | CN(C=O)C | C3H7NO
reactant | methylene chloride | 0.003 mol, 0.2 mL | C(Cl)Cl | CH2Cl2
reactant | Oxalyl chloride | 0.000089 mol, 7.6 uL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 2-(3-(4-chlorobenzyl)-5-(4-(N-thiazol-2-ylsulfamoyl)phenylamino)-1H-pyrazol-1-yl)acetamide | ClC1=CC=C(CC2=NN(C(=C2)NC2=CC=C(C=C2)S(NC=2SC=CN2)(=O)=O)CC(=O)N)C=C1 | C21H19ClN6O3S2
